US05861359
Step J Synthesis of methyl 2-[5-chloro-2-[4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenoxymethyl]phenoxy]propanoate (Compound 32)
This compound was prepared in a manner analogous to that of Step I of Example 1, using 0.82 gram (0.0030 mole) of 4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenol, 0.95 gram (0.0036 mole) of methyl 2-(5-chloro-2-chloromethylphenoxy)propanoate (prepared in Steps A through D of this Example), and 0.62 gram (0.0045 mole) of potassium carbonate in N,N-dimethylformamide. The crude reaction product was subjected to column chromatography on silica gel, using 1:4 ethyl acetate and heptane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure to an oil. The oil was triturated with heptane, yielding 0.68 gram of title compound, mp 61-64° C. The NMR spectrum was consistent with the proposed structure.

reactant | 4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenol | 0.0030 mole, 0.82 gram | ClC=1C(=NN(C1OC(F)F)C)C1=CC=C(C=C1)O | C11H9ClF2N2O2
reactant | methyl 2-(5-chloro-2-chloromethylphenoxy)propanoate | 0.0036 mole, 0.95 gram | ClC=1C=CC(=C(OC(C(=O)OC)C)C1)CCl | C11H12Cl2O3
reactant | potassium carbonate | 0.0045 mole, 0.62 gram | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | heptane | CCCCCCC | C7H16
product | methyl 2-[5-chloro-2-[4-(4-chloro-5-difluoromethoxy-1-methylpyrazol-3-yl)phenoxymethyl]phenoxy]propanoate | 0.68 gram | ClC=1C=CC(=C(OC(C(=O)OC)C)C1)COC1=CC=C(C=C1)C1=NN(C(=C1Cl)OC(F)F)C | C22H20Cl2F2N2O5
